US08207147B2
4-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethoxy)-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl
Sodium tert-butoxide (86 mg, 900 μmol) was added to a solution of 3-chloropyridine (23 mg, 200 μmol), 4-[5-(piperidin-4-yloxymethyl)[1,2,4]oxadiazol-3-yl]pyridine (Preparation 17, 65 mg, 250 μmol), Pd2 dba3 (4 mg, 4 μmol) and 2,8,9-trisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane (6 mg, 16 μmol) in toluene (3 ml) and the resulting mixture heated at 80° C. for 48 h. After cooling and filtering through celite, the solvent was removed and the residue purified by HPLC to afford the title compound: RT=2.64 min; m/z (ES+)=338.0 [M+H]+.

reactant | Sodium tert-butoxide | 900 μmol, 86 mg | CC(C)([O-])C.[Na+]
reactant | 3-chloropyridine | 200 μmol, 23 mg | ClC=1C=NC=CC1 | C5H4ClN
reactant | 4-[5-(piperidin-4-yloxymethyl)[1,2,4]oxadiazol-3-yl]pyridine | 250 μmol, 65 mg | N1CCC(CC1)OCC1=NC(=NO1)C1=CC=NC=C1 | C13H16N4O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 4 μmol, 4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethoxy)-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | N1=CC=C(C=C1)C1=NOC(=N1)COC1CCN(CC1)C=1C=NC=CC1 | C18H19N5O2
